US04640707
A suspension of sodium hydride (0.06 g) in N,N-dimethylformamide (3 ml) was cooled to 0° C. 7-Fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one (0.57 g) was added thereto at 0° to 5° C., and the resultant mixture was stirred for 30 minutes. Propargyl bromide (0.35 g) was added to the mixture, which was gradually heated to room temperature, and the reaction was continued for 6 hours. After addition of water, the resultant mixture was extracted with ethyl acetate, and the extract was washed with water, dried and concentrated. The residue was purified by silica gel thin layer chromatography using a mixture of ethyl acetate and n-hexane (1:1) as an eluent to give 7-fluoro-6-nitro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (0.47 g). m.p., 109.1° C.

reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | 7-Fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 0.57 g | FC1=CC2=C(NC(CO2)=O)C=C1[N+](=O)[O-] | C8H5FN2O4
reactant | Propargyl bromide | 0.35 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 7-fluoro-6-nitro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 0.47 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1[N+](=O)[O-] | C11H7FN2O4
